US06432686B1
Transformants Containing Genes for B12 Transport and DhaB Activity
coli strain FM5 was transformed with the dha plasmid pDT24 (specR), the btuB plasmids pBtuB1 (ampR) or pBtuB2 (chlR), or the btuBCED plasmid pBCED (chlR). Selection is on LB plates containing 50 mg/L spectinomycin, 50 mg/L ampicillin or 100 mg/L chloramphenicol. Colonies resistant to the appropriate antibiotics were used for 1,3-propanediol production and vitamin or coenzyme B12 uptake.

reactant | spectinomycin | C[C@@H]1CC(=O)[C@]2([C@@H](O1)O[C@@H]3[C@H]([C@@H]([C@@H]([C@@H]([C@H]3O2)NC)O)NC)O)O | C14H24N2O7
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | DhaB | C1=CC=C(C(=C1)N/N=C/2\C=CC=CC2=O)O | C12H10N2O2
